US08252810B2
(1) 4-Ethyl-5-methoxymethyl-2,4-dihydro[1,2,4]triazol-3-one
Methoxyacetic acid hydrazide (3.0 g) was heated and dissolved in toluene (60 ml), and then ethyl isocyanate (2.56 ml) was added dropwise. After stirring for at room temperature for one day, the reaction mixture was concentrated under reduced pressure. The residue was added to a 2% aqueous solution of potassium hydroxide (100 ml) that had been heated to 95° C., and the mixture was stirred at 95° C. for 45 minutes. After cooling to room temperature, concentrated hydrochloric acid (2.9 ml) was added and the mixture was stirred at room temperature for one day. Silica gel was then added to the reaction mixture, and it was concentrated under reduced pressure and purified by silica gel column chromatography. The obtained solid was washed with diethyl ether to obtain the title compound (3.56 g).

reactant | Methoxyacetic acid hydrazide | 3.0 g | COCC(=O)NN | C3H8N2O2
reactant | ethyl isocyanate | 2.56 ml | C(C)N=C=O | C3H5NO
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Ethyl-5-methoxymethyl-2,4-dihydro[1,2,4]triazol-3-one | 3.56 g | C(C)N1C(NN=C1COC)=O | C6H11N3O2
